US04006145
11.2 g of sodium cyanide in 135 ml of dimethyl sulphoxide are warmed to 40° c and treated dropwise over a period of 10 minutes with a solution of 87 g of 2-(phenylthio)-5-trifluoromethyl-benzyl chloride in 72 ml of dimethyl sulphoxide. The mixture is stirred at 40° C for 9 hours, cooled to room temperature, treated with 200 ml of water and extracted with 200 ml of ether. The aqueous phase is then extracted twice with 100 ml of ether each time. The combined organic phases are now washed twice with 200 ml of water each time, dried over sodium sulphate and evaporated under reduced pressure. There is obtained 2-(phenylthio)-5-trifluoromethyl-phenylacetonitrile as a dark-red oil.

reactant | sodium cyanide | 11.2 g | [C-]#N.[Na+]
reactant | 2-(phenylthio)-5-trifluoromethyl-benzyl chloride | 87 g | C1(=CC=CC=C1)SC1=C(CCl)C=C(C=C1)C(F)(F)F | C14H10ClF3S
reactant | water | 200 ml | O | H2O
solvent | dimethyl sulphoxide | 135 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 72 ml | CS(=O)C | C2H6OS
product | 2-(phenylthio)-5-trifluoromethyl-phenylacetonitrile | C1(=CC=CC=C1)SC1=C(C=C(C=C1)C(F)(F)F)CC#N | C15H10F3NS
